US09062076B2
To a stirred solution of 2-fluoro-4,5-dimethoxybenzaldehyde (1.10 g, 6 mmol) in DMF (50 mL) was added methyl 2-mercaptoacetate (0.58 mL, 6.6 mmol) and potassium carbonate (2.48 g, 18 mmol). The resulting mixture was then heated at 60° C. for 15 hours. The DMF was removed via rotary evaporation and the residue was diluted with water and extracted with DCM. The organic phase was dried over sodium sulfate and the solvent was removed under reduced pressure to afford methyl 5,6-dimethoxybenzo[b]thiophene-2-carboxylate as a light yellow solid (1.0 g, 67%). LC-MS (ES-API); rt 8.48 min; m/z calculated for C12H12O4S [M+Na]+ 275.0, found 275.0.

reactant | 2-fluoro-4,5-dimethoxybenzaldehyde | 6 mmol, 1.10 g | FC1=C(C=O)C=C(C(=C1)OC)OC | C9H9FO3
reactant | methyl 2-mercaptoacetate | 6.6 mmol, 0.58 mL | SCC(=O)OC | C3H6O2S
reactant | potassium carbonate | 18 mmol, 2.48 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | methyl 5,6-dimethoxybenzo[b]thiophene-2-carboxylate | 1.0 g, 67% | COC1=CC2=C(SC(=C2)C(=O)OC)C=C1OC | C12H12O4S
